US06521663B2
PhCF2COCl
To a flask charged with 2,2-difluoro-2-phenylacetic acid (0.8 g, 5.06 mmol), as prepared in the preceding step, under argon in an ice-bath was added oxalyl chloride (5 mL), and the reaction mixture stirred for 15 min. A solution of dimethylformamide (DMF) (37 mg, 0.506 mmol) in DCM (0.5 mL) was added. After 2 hours, the ice-bath was removed, and the mixture continued to stir for 1 hour. The solvents were evaporated, DCM was added, and then evaporated in vacuo giving the title compound (0.88 g, 98% yield), that was used immediately without further purification.

reactant | 2,2-difluoro-2-phenylacetic acid | 5.06 mmol, 0.8 g | FC(C(=O)O)(C1=CC=CC=C1)F | C8H6F2O2
reactant | oxalyl chloride | 5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.506 mmol, 37 mg | CN(C=O)C | C3H7NO
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | PhCF2COCl | 0.88 g, 98% yield | C1(=CC=CC=C1)C(F)(F)C(=O)Cl | C8H5ClF2O
